US04434172
Synthesis of 2-(3,4-dimethoxyphenyl)-5-methylthiazolidine-4-one
A mixture of 16.6 g of 2,4-dimethoxybenzaldehyde, 10.6 g of 2-mercaptopropionic acid and 6 g of ammonium carbonate in 250 ml of benzene was refluxed for 3 hours in a reaction vessel provided with a Dean-Stark apparatus at 80° C. while removing the distilled water. The crystals which separated out after cooling the reaction mixture were collected by filtration and recrystallized from hot benzene to obtain the object, colourless leaf-like crystals melting at 151° to 152.5° C. in an amount of 20.4 g corresponding to a yield of 81%.

reactant | 2,4-dimethoxybenzaldehyde | 16.6 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | 2-mercaptopropionic acid | 10.6 g | SC(C(=O)O)C | C3H6O2S
reactant | ammonium carbonate | 6 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 2-(3,4-dimethoxyphenyl)-5-methylthiazolidine-4-one | yield of 81% | COC=1C=C(C=CC1OC)C1SC(C(N1)=O)C | C12H15NO3S
